US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitrophenyl}-N′-(2-piperidinoethyl)urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitroaniline (100 mg) was dissolved in chloroform (10 ml) and triethylamine (1 ml) to prepare a solution. A solution of triphosgene (131 mg) in chloroform was then added to the solution, and the mixture was stirred at room temperature for 10 min. Next, 2-piperidino-1-ethanamine (56 mg) was added thereto, and the mixture was further stirred at room temperature for one hr. Water was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by concentration. The residue was purified on a column using chloroform/methanol to give the title compound (58 mg, yield 40%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitroaniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C17H15N3O5
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 131 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-piperidino-1-ethanamine | 56 mg | N1(CCCCC1)CCN | C7H16N2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitrophenyl}-N′-(2-piperidinoethyl)urea | 58 mg, yield 40% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCCN1CCCCC1)[N+](=O)[O-] | C25H29N5O6
